US07115645B2
2-[2-[(1,2-Diphenyl-1H-benzimidazol-6-yl)oxy]ethoxy]acetic acid
50 mg of 2-[2-[(1,2-diphenyl-1H-benzimidazol-6-yl)oxy]ethoxy]acetic acid-tert-butyl ester was dissolved in 0.5 ml of trifluoroacetic acid and stirred for 48 hours. Then, it was diluted with water and extracted three times with ethyl acetate. The combined organic phases were washed with saturated sodium chloride solution, dried on sodium sulfate and concentrated by evaporation in a vacuum. The residue was chromatographed on silica gel.

reactant | 2-[2-[(1,2-diphenyl-1H-benzimidazol-6-yl)oxy]ethoxy]acetic acid-tert-butyl ester | 50 mg | C(C)(C)(C)OC(COCCOC=1C=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=CC=C2)C1)=O | C27H28N2O4
solvent | trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | O | H2O
product | 2-[2-[(1,2-Diphenyl-1H-benzimidazol-6-yl)oxy]ethoxy]acetic acid | C1(=CC=CC=C1)N1C(=NC2=C1C=C(C=C2)OCCOCC(=O)O)C2=CC=CC=C2 | C23H20N2O4
